US08084469B2
Methyl 5-[4-(difluoromethoxy)phenyl]piperidine-3-carboxylate [racemic cis/trans isomer mixture]
A solution of 8.6 g (30.9 mmol) of methyl 5-[4-(difluoromethoxy)phenyl]nicotinate in concentrated acetic acid (112 ml) was admixed with 841 mg of palladium/carbon (10% palladium) and 1.12 g of platinum(IV) oxide. This was followed by hydrogenation under a hydrogen atmosphere at standard pressure for 24 h. The reaction solution was concentrated under reduced pressure. The residue was taken up in water, acidified (pH=1) with 1 N hydrochloric acid, extracted with diethyl ether, then basified (pH>10) with saturated aqueous sodium hydrogencarbonate solution and extracted repeatedly with ethyl acetate. The combined filtrates were dried over sodium sulphate, filtered and concentrated under reduced pressure. Yield: 6.6 g (74% of theory)

reactant | methyl 5-[4-(difluoromethoxy)phenyl]nicotinate | 30.9 mmol, 8.6 g | FC(OC1=CC=C(C=C1)C=1C=NC=C(C(=O)OC)C1)F | C14H11F2NO3
solvent | acetic acid | 112 ml | C(C)(=O)O | C2H4O2
catalyst | palladium/carbon | 841 mg | [Pd] | Pd
catalyst | platinum(IV) oxide | 1.12 g | [Pt](=O)=O
product | Methyl 5-[4-(difluoromethoxy)phenyl]piperidine-3-carboxylate | FC(OC1=CC=C(C=C1)C1CC(CNC1)C(=O)OC)F | C14H17F2NO3
